US08685958B2
(3-(4-(1-Oxa-7-azaspiro[4.4]nonan-7-ylmethyl)phenoxy)azetidin-1-yl)(5-(4-methoxyphenyl)-1,3,4-oxadiazol-2-yl)methanone
1-oxa-7-azaspiro[4.4]nonane hydrochloride (65 mg, 0.40 mmol) and TEA (0.082 mL, 0.59 mmol) were mixed with DCM (4 mL). To the mixture was added 4-(1-(5-(4-methoxyphenyl)-1,3,4-oxadiazole-2-carbonyl)azetidin-3-yloxy)benzaldehyde (0.150 g, 0.40 mmol) dissolved in DCM (1 mL). After stirring for 10 min, sodium triacetoxyhydroborate (0.168 g, 0.79 mmol) was added and the reaction mixture was stirred at RT overnight. An aqueous solution of NaHCO3 (8%, 10 mL) was added and the mixture was extracted twice with DCM (15 mL). The organic layer was dried over a phase separator and concentrated under reduced pressure. The crude was purified by chromatography on silica gel (25 g) eluting with a mixture of EtOAc and ammonia in MeOH (2M) 20:1. The pooled fractions were concentrated under reduced pressure yielding the desired compound as a white solid (95 mg, 49%). 1H NMR (400 MHz, CDCl3): δ 1.73 (m, 5H), 1.86 (m, 1H), 2.57 (m, 3H), 2.69 (m, 1H), 3.56 (m, 2H), 3.77 (m, 2H), 3.88 (s, 3H), 4.32 (dd, 1H), 4.63 (m, 1H), 4.73 (dd, 1H), 5.07 (m, 2H), 6.71 (d, 2H), 7.01 (d, 2H), 7.27 (d, 2H), 8.09 (d, 2H). MS (APCI+) m/z 491.5 [M+H]+. LC purity: 94%.

reactant | 1-oxa-7-azaspiro[4.4]nonane hydrochloride | 0.40 mmol, 65 mg | Cl.O1CCCC12CNCC2
reactant | 4-(1-(5-(4-methoxyphenyl)-1,3,4-oxadiazole-2-carbonyl)azetidin-3-yloxy)benzaldehyde | 0.40 mmol, 0.150 g | COC1=CC=C(C=C1)C1=NN=C(O1)C(=O)N1CC(C1)OC1=CC=C(C=O)C=C1 | C20H17N3O5
reactant | sodium | [Na] | Na
reactant | NaHCO3 | 10 mL | C(=O)(O)[O-].[Na+]
solvent | DCM | 1 mL | C(Cl)Cl | CH2Cl2
solvent | DCM | 4 mL | C(Cl)Cl | CH2Cl2
product | (3-(4-(1-Oxa-7-azaspiro[4.4]nonan-7-ylmethyl)phenoxy)azetidin-1-yl)(5-(4-methoxyphenyl)-1,3,4-oxadiazol-2-yl)methanone | 95 mg, 49% | O1CCCC12CN(CC2)CC2=CC=C(OC1CN(C1)C(=O)C=1OC(=NN1)C1=CC=C(C=C1)OC)C=C2 | C27H30N4O5
